* Z:\mnt\spice-netlists\LTC3863_DC1737A_F15A.asc
C2 N003 0 27n
V1 IN 0 12
C5 IN N001 .47µ
R7 IN N002 16m
M§Q1 N008 N005 N002 N002 FDS6675
D1 OUT N008 B540C
L1 N008 0 10µ
R5 OUT N007 1.21Meg
R3 N007 N010 80.6K
C12 0 OUT 33µ x2
Rload OUT 0 12
XU1 NC_01 N009 0 N006 N010 N004 N007 NC_02 N001 N002 IN N005 0 LTC3863
R1 N009 0 61.9K
C34 0 OUT 150µ x2
C8 N007 N010 68p
R2 N004 N003 14.7K
C3 N004 0 390p
C6 N006 0 100n
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10m startup
* Note:\n  A smaller value SS capacitor (C6) can be used to reduce simulation time. \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2014 Linear Technology Inc. All rights reserved.
* 1- Parasitics not modeled\n2- Component substitutions have been made\n     based on available component models
* LTC3863 - 60V, Low IQ Inverting DC/DC Controller\nLow Iq Inverting DC/DC Converter\nInput: 4.5V to 16V     Output: -12V @ 1A
.lib LTC3863.sub
.backanno
.end
