* Z:\mnt\spice-netlists\LTC3883_DC1778A_TA02.asc
V1 IN 0 12
C1 0 N002 1µ
M§Q3 N001 N006 N009 N009 BSC050NE2LS
M§Q4 N009 N012 0 0 BSC010NE2LSI
L2 N009 OUT0 0.56µ
C7 N008 N009 .1µ
D2 N002 N008 CMDSH2-3
C8 N013 N014 .22µ
R10 N009 N013 1.4K
C9 OUT0 0 860µ
R13 OUT0 N014 1.4K
C13 OUT0 N014 2.2µ
Rload0 OUT0 0 .09
XU1 OUT0 0 N004 N003 N017 N013 N014 N011 N010 MP_01 MP_02 MP_03 MP_04 N007 MP_05 MP_06 N016 N015 MP_07 0 MP_08 VDD25 MP_09 MP_10 VDD33 MP_11 MP_12 MP_13 MP_14 MP_15 MP_16 MP_17 N002 0 N005 N012 N008 N006 N009 MP_18 0 LTC3883 VIN_ON=5.5 VIN_OFF=5 Vout=1.8 Ilim_range=1 OC_limit=1 Mode_ll=2 Fault_response=0 Retry_delay=.1m Freq=425K PHs=0 Ton_delay=.3m Ton_rise=.5m Toff_delay=.2m Toff_fall=.3m Vout_range=0
C2 VDD33 0 1µ
C3 VDD25 0 1µ
R1 N011 VDD33 10K
R2 N010 VDD33 10K
R3 N007 VDD33 10K
R4 IN N001 0.005
R5 N005 IN 3
R6 N003 IN 100
R7 N004 N001 100
C5 N004 N003 1µ
C10 0 N005 10µ
C4 N001 0 22µ
R8 N015 VDD25 24.9K
R9 0 N015 11.3K
R14 N016 VDD25 16.2K
R15 0 N016 17.4K
C6 N017 0 2.2n
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.5m startup
* Please read the following notes carefully, since the model presents different user interface\nthan the real part does.\n \n(1) All PMBus communication and memory address related functions and pins are not modeled. \n \n(2) Changes to all parameter values during the simulation running will not be in effect, unless the\nsimulation is stopped and restarted. This is different from the operation of the part, which will\n respond to the commanded changes while running. \n \n(3) Share_clk is not modeled. The default time reference of LTspice is used as the common time \nbase for all time related parameters.\n \n(4) The following parameters can be defined, by right-clicking the symbol of LTC3880. Different \nnomenclature from the datasheet is adopted here. If any value of these parameters are set beyond \nthe scope discribed in the datasheet, the resulting simulation outcomes are not meaningful.\n \n     VIN_ON & VIN_OFF -- in volts, set the unit start/stop input voltages;\n     Freq -- in Hz, sets switching frequency as one of values of 250K, 350K, \n                425K, 500K, 575K, 650K, 750K, 1000K. FREQ_CFG pin needs to float \n                (or short to VDD25), to make the value be in effect;\n     Ton_delay & Ton_rise; -- in sec, set delay and soft-start timers for \n                channel0 and channel1. Initialization time is not modeled;\n     Toff_delay & Toff_fall; -- in sec, set delay and soft-off timers for \n                channel0 and channel1;\n     Vout -- in volt, set output voltages respectively;\n     Vout_range -- set maximum output range, with value 0\n                                                      for 5.5V (CH1); value 1\n                                                      for 2.75V\n     Ilim_range -- set maximum sensed peak current range, with value 0\n                           for low 50mV, and 1 for high 75mV;\n     OC_limit -- set ratio of peak current limit to the maximum value defined\n                      by Ilimit_range. It must be one of values: 0.5, 0.572, 0.642, \n                      0.714, 0.786, 0.858, 0.928, 1;\n     Mode_II -- sets light load operation mode: 0 for discontinuous, 1 for Burst,\n                      2 for forced continuous;\n     Fault_response -- sets the response mode of the unit to occuring faults:\n                                 0 for ignore, 1 for latch up, 2 for Hiccup after Retry_delay time;\n     Retry_delay -- in sec, sets the timer before the unit turns on after a fault;
* LTC3883 - SinglePhase Step-Down DC/DC Controller with Digital Power System Management\nHigh Efficiency 425kHz 1.8V Step-Down Converter with DCR Sense\nInput: 6V to 24V     Output: 1.8V @ 20A
* Notes: \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright ?2012 Linear Technology Inc.  All rights reserved.
* 1.8V @ 20A
.lib LTC3883.sub
.backanno
.end
