* Z:\mnt\spice-netlists\LTC3111_DC1999A_TA01A.asc
XU1 0 N007 N005 0 IN 0 IN MP_01 OUT MP_02 MP_03 N002 MP_04 N004 N001 MP_05 N003 N009 IN LTC3111
L1 N001 N002 10µ
C1 N001 N003 .1µ
C2 N002 N004 .1µ
C3 OUT 0 100µ
C5 OUT N006 47p
R2 N006 N005 11.5K
R3 OUT N005 845K
R4 N005 0 158K
C6 N005 N007 22p
C7 N005 N008 1500p
R5 N008 N007 41.2K
C8 N009 0 1µ
C9 IN 0 47µ
V1 IN 0 12V
Rload OUT 0 10
.tran 4m startup
* LTC3111- 15V, 1.5A Synchronous Buck-Boost DC/DC Converter\n5V, 800kHz Wide Input Voltage Buck-Boost Regulator\nInput: 2.5V to 15V     Output: 5V @ 1.5A for Vin > Vout
* Notes: \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc.  All rights reserved.
.lib LTC3111.sub
.backanno
.end
