* Z:\mnt\spice-netlists\LTC3121_DC2372A_TA01A.asc
V1 IN 0 5
L1 IN N001 6.8µ
C1 N002 0 4.7µ
R1 N005 0 57.6K
C2 OUT N003 0.1µ
R2 N004 0 113K
R3 OUT N004 1020K
C3 OUT 0 22µ
C4 N007 0 1000p
R4 N006 N007 82.5K
XU1 N001 0 IN N002 N002 N005 N006 N004 IN 0 OUT N003 LTC3121
C5 IN 0 10µ
Rload OUT 0 30
.tran 12m startup
* LTC3121 - 15V, 1.5A Synchronous Step-Up DC/DC Converter with Output Disconnect\n5V to 12V Synchronous Boost Converter with Output Disconnect\nInput: 1.8V to 5.5V      Output: 12V @ 400mA     Fsw = 1MHz
* Notes:\n \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc. All rights reserved.
.lib LTC3121.sub
.backanno
.end
