* Z:\mnt\spice-netlists\LTC3649_DC2113_CABLE.asc
XU1 0 MP_01 IN MP_02 IN 0 N001 N004 0 N009 N002 N007 OUT N010 N001 OUT N001 N003 N005 LTC3649
C1 N010 0 2.2n
R2 N007 0 200K
V1 IN 0 12
C2 0 N001 2.2µ
L1 N005 OUT 5.6µ
C4 N003 N005 .1µ
C5 OUT 0 22µ x2
C6 OUT 0 150µ
C7 IN 0 10µ
C8 IN 0 10µ x2
R5 N004 N001 100K
R6 N001 N002 10K
R1 N010 N009 59K
R3 N009 0 8.06K
C3 N009 0 470p
Iload N006 N008 PWL(0 0 1m 0 3m 2)
RC1 N006 OUT 0.1
RC2 N008 0 0.1
.tran 3.5m startup
* Notes:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2016 Linear Technology Inc. All rights reserved.
* Cable
* LTC3649 - 60V, 4A Synchronous Step-Down Regulator with Rail-to-Rail Programmable Output\nHigh Voltage Monolothic Synchronous Buck Regulator with Cable Drop Compensation\nInput: 4V to 60V     Output: 5V @ 4A, Fsw = 500kHz
.lib LTC3649.sub
.backanno
.end
