* Z:\mnt\spice-netlists\LTC3113_DC1551_F03A.asc
V1 IN 0 3.3
L1 N001 N002 2.2µ
R1 OUT N006 825K
R2 N006 0 182K
XU1 N007 N005 0 N001 0 MP_01 N002 OUT MP_02 IN MP_03 N003 N006 N008 LTC3113
R3 0 N007 90.9K
C2 OUT 0 100µ
C3 IN 0 47µ
R4 IN N003 1Meg
R5 OUT N004 6.49K
C5 N004 N006 47p
C6 N008 N006 10p
C7 N006 N009 680p
R6 N009 N008 49.9K
R7 0 N005 1Meg
Rload OUT 0 1.1
.tran 2.5m startup
* LTC3113 - 3A Low Noise Buck-Boost DC/DC Converter\nLow Noise Buck-Boost Regulator\nInput: 1.8V to 5.5V     Output: 3.3V @ 3A for Vin > Vout
* Notes: \n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2015 Linear Technology Inc.  All rights reserved.
.lib LTC3113.sub
.backanno
.end
