* Z:\mnt\spice-netlists\LTC3787_DCRsensing.asc
C8 N001 0 4.7µ
R2 N001 N003 100K
V1 IN 0 PWL(0 0 0.01m 8 0.4m 8 0.9m 14)
L1 IN N008 1.4µ
M§Q1 OUT N004 N008 N008 BSC030N03LS
M§Q2 N008 N010 0 0 BSC030N03LS
C4 N006 N008 .1µ
D1 N001 N006 MBR0540
R8 N014 0 25.5K
R6 OUT N014 232K
C15 0 N017 0.001µ
L2 IN N009 1.4µ
M§Q3 OUT N005 N009 N009 BSC030N03LS
M§Q4 N009 N011 0 0 BSC030N03LS
C9 N007 N009 .1µ
D2 N001 N007 MBR0540
XU1 N012 N018 NC_01 NC_02 NC_03 0 N002 MP_04 N013 IN MP_05 MP_06 MP_07 MP_08 N009 N005 N007 N011 N001 NC_09 0 OUT N010 N006 N004 N008 N003 NC_10 N017 N015 N014 IN LTC3787
Rload OUT 0 0.666
C1 N015 0 100p
C3 N016 0 15n
R9 N015 N016 5K
Cout2 OUT 0 270µ
R34 N002 0 12.1K
R33 IN N002 38.3K
C2 IN N013 330n
R1 N009 N013 3.92K
C5 IN N012 330n
R3 N012 N008 3.92k
R4 0 N018 49.9K
Cout3 OUT 0 270µ
CIN1 IN 0 47µ
CIN2 IN 0 270µ
Cout1 OUT 0 47µ
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
* LTC3787 - PolyPhase Synchronous Boost Controller\nHigh Current 2-Phase Synchronous Boost Converter with Inductor DCR Sensing\nInput: 7V to 16V     Output: 12V @ 18A
* L1, L2: Wurth 7443630140\nCIN1, Cout1 4x22uF/25V\nCIN2, Cout2, Cout3 25HVH270M\nC15 is 0.1uF
.tran 0 2m 0 2u startup
* This simulation demonstrates LTC3787 functionality in two modes of operation: 'regular' boost converter, when input voltage of 8V steps-up to 12V, \nand 'wire' mode, when Vin>12V. In the 'wire' mode circuit provides maximum efficiency by permanently keeping Q1 and Q3 in the 'on' state \nand by utilizing DCR sensing. Initial input voltage of 8V increased to 14V at  0.4 ms of the simulation time.
* Notes:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LTC3787.sub
.backanno
.end
