* Z:\mnt\spice-netlists\LTC1625_F01.asc
M§Q1 IN N003 N005 N005 Si4410DY
M§Q2 N005 N010 0 0 Si4410DY
D1 N009 N008 1N5818
L1 N005 OUT 10µ
D2 0 N005 1N5818
C1 OUT 0 100µ
R1 N007 N006 10K
C2 N006 0 2200p
C3 N002 0 .01µ
V1 IN 0 16
C4 N005 N008 .22µ
C5 N009 0 4.7µ
Rload OUT 0 2
XU1 N001 MP_01 N002 N004 N007 0 OUT 0 0 N010 N009 N008 N003 N005 IN IN LTC1625
C6 IN 0 10µ x2
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 8m startup
* LTC1625 - No Rsense Current Mode Synchronous Step-Down Switching Regulator\nHigh Efficiency Step-Down Converter\nInput: 5V to 28V      Output: 3.3V @ 4.5A
* Notes:\n  RUN/SS capacitor has been reduced to speed up simulation time. Typical values should be 0.1µF.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2013 Linear Technology Inc. All rights reserved.
.lib LTC1625.sub
.backanno
.end
