* Z:\mnt\spice-netlists\LTC3783_F11.asc
M§Q1 N002 N008 N007 N007 Si4470DY
R2 N013 0 20K
C1 N012 0 .01µ
V1 IN 0 14.5
XU1 IN N001 N006 N006 N013 MP_01 N009 N010 N008 N004 IN N007 N012 N005 N011 N003 0 LTC3783
L1 IN N002 10µ
C2 N004 0 4.7µ
R3 N001 IN .3
C3 N011 0 .01µ
R5 IN N003 1Meg
R6 N007 0 50m
C4 0 OUT 10µ
R7 OUT N005 40.2K
R8 N005 0 1.6K
D1 OUT N001 LXHL-BW02 N=4
D5 N002 OUT MBRS340
C5 IN 0 10µ x2
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1m startup
* LTC3783 - PWM LED Driver and Boost, Flyback and SEPIC Converter\nSingle Inductor Buck-Boost Application with Analog Dimming and Low Frequency PWM Dimming\nInput: 9V to 20V     Output: 4x WLEDs @ 350mA
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2012 Linear Technology Inc. All rights reserved.
.lib LTC3783.sub
.backanno
.end
