* Z:\mnt\spice-netlists\LTC3784_F10.asc
C1 N001 0 4.7µ
R1 N001 N003 100K
V1 IN 0 14
R2 IN N008 4m
L1 N008 N009 3.3µ
M§Q1 OUT N004 N009 N009 Si4840DY
M§Q2 N009 N012 0 0 Si4840DY
C2 N006 N009 .1µ
D1 N001 N006 MBR0540
C3 OUT 0 220µ x2
R3 N014 0 12.1K
R4 OUT N014 232K
C4 N017 0 .005µ
R5 IN N011 4m
L2 N011 N010 3.3µ
M§Q3 OUT N005 N010 N010 Si4840DY
M§Q4 N010 N013 0 0 Si4840DY
C5 N007 N010 .1µ
D2 N001 N007 MBR0540
XU1 N008 0 NC_01 NC_02 N001 0 N002 0 N011 IN MP_03 MP_04 MP_05 MP_06 N010 N005 N007 N013 N001 NC_07 0 OUT N012 N006 N004 N009 N003 N001 N017 N015 N014 IN LTC3784
C6 IN 0 22µ x2
C7 OUT 0 22µ x8
C8 N016 0 15n
R6 N015 N016 8.66K
C9 N015 0 220p
Rload OUT 0 2.4
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.5m startup
* LTC3784 - 60V PolyPhase Synchronous Boost Controller\nHigh Efficiency 2-Phase 24V, 10A Boost Converter\nInput: 5V to 24V     Output: 24V @ 10A
* Notes: \n  A smaller SS capacitor is being used to reduce simulation time. See datasheet for typical values.\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2016 Linear Technology Inc.  All rights reserved.
.lib LTC3784.sub
.backanno
.end
