* Z:\mnt\spice-netlists\LTC3810_F19.asc
R1 IN N001 261K
M§Q1 IN N003 N004 N004 BSH114
R2 IN N003 80.6K
D1 N004 N005 MBRS1100
C1 N005 N009 .1µ
M§Q2 IN N007 N009 N009 Si7850DP
M§Q3 N009 N015 0 0 Si7850DP
C2 N004 0 1µ
L1 N009 OUT 10µ
D2 0 N009 MBRS1100
R3 OUT N013 14K
R4 N013 0 1K
C3 OUT 0 270µ
C4 N014 N013 5p
C5 N010 0 1000p
C6 N012 N011 .01µ
XU1 N001 MP_01 MP_02 N004 N008 N006 0 N014 N013 N012 N010 0 N004 N002 N003 OUT N004 N004 N015 0 0 MP_03 MP_04 MP_05 N009 N009 N007 N005 LTC3810
R5 N016 N013 200K
C7 N014 N016 47p
R6 N011 0 10K
V1 IN 0 48
C8 IN 0 68µ
C9 N001 0 100p
R7 N004 N008 80.6K
R8 N008 0 20K
R9 IN N002 470K
R10 N002 0 12K
RLoad OUT 0 1.2
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran .8m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts\n  Copyright © 2011 Linear Technology Inc. All rights reserved.
* LTC3810 - 100V Current Mode Synchronous Switching Regulator Controller\n36V to 72V Input Voltage to 12V @ 10A Buck Regulator\nInput: 36V-72V     Output: 12V @ 10A
.lib LTC3810.sub
.backanno
.end
